US08431563B2
A 500-mL round-bottomed flask was charged with 5-bromo-2-chloropyrimidine (8.53 g, 44.1 mmol, Combi-Blocks, San Diego, Calif.) and 100 mL of ether. After cooling to −78° C., n-BuLi (2.5 M in hexanes, 27.6 mL, 44.1 mmol) was added. This mixture was stirred at −78° C. for 10 min, then 1,1,1,tri-fluoro-2-propanone (14.82 g, 132 mmol, Sigma-Aldrich, St. Louis, Mo.) was added. After stirring for an additional 10 min at −78° C., the reaction was quenched with saturated aqueous NH4Cl. The solution was extracted with EtOAc, dried (MgSO4), filtered, and concentrated. Purification via column chromatography on silica gel (0 to 85% EtOAc in hexanes) gave 2-(2-chloro-5-pyrimidinyl)-1,1,1-trifluoro-2-propanol (1.70 g) as a white solid.

reactant | 5-bromo-2-chloropyrimidine | 44.1 mmol, 8.53 g | BrC=1C=NC(=NC1)Cl | C4H2BrClN2
reactant | n-BuLi | 44.1 mmol, 2.5 M, 27.6 mL | [Li]CCCC
reactant | 1,1,1,tri-fluoro-2-propanone | 132 mmol, 14.82 g | FC(C(C)=O)(F)F | C3H3F3O
solvent | ether | 100 mL | CCOCC | C4H10O
product | 2-(2-chloro-5-pyrimidinyl)-1,1,1-trifluoro-2-propanol | 1.70 g | ClC1=NC=C(C=N1)C(C(F)(F)F)(C)O | C7H6ClF3N2O
